US06521623B1
N-[2-(2-oxo-2,3-Dihydro-1H-benzimidazol-1-yl)ethyl]-acetamide
To a cooled solution of NaOH (0.41 g, 10 mmoles) in water (5 ml) were simultaneously added 1-(2-aminoethyl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride (0.7 g, 3.3 mmoles) and a solution of acetic anhydride (0.37 ml, 3.9 mmoles) in dioxane (10 ml). The reaction mixture was stirred for 2 hours at room temperature and then taken to dryness. The residue was dissolved in water, adjusted to pH 4 with 10% aqueous HCl, and extracted with CHCl3. The organic layer was taken to dryness and from the crude residue 0.35 g of the title compound was obtained after crystallization from diethyl ether. M.p. 153° C.

reactant | NaOH | 10 mmoles, 0.41 g | [OH-].[Na+]
reactant | 1-(2-aminoethyl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride | 3.3 mmoles, 0.7 g | Cl.NCCN1C(NC2=C1C=CC=C2)=O
reactant | acetic anhydride | 3.9 mmoles, 0.37 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-[2-(2-oxo-2,3-Dihydro-1H-benzimidazol-1-yl)ethyl]-acetamide | O=C1NC2=C(N1CCNC(C)=O)C=CC=C2 | C11H13N3O2
